### PR TITLE
fix: make `IO.RealWorld` opaque

### PR DESCRIPTION
**Pull request by zwarich**
This PR makes `IO.RealWorld` opaque. It also adds a new compiler -only `lcRealWorld` constant to represent this type within the compiler. By default, an opaque type definition is treated like `lcAny`, whereas we want a more efficient representation. At the moment, this isn't a big difference, but in the future we would like to completely erase `IO.RealWorld` at runtime.

### CODE REVIEW

**Comment by zwarich** [comment]
!bench

File: src/Init/System/IO.lean [hunk 1]
```diff
@@ -16,15 +16,15 @@ public section
...
 
+private opaque IO.RealWorld.nonemptyType : NonemptyType.{0}
+
 /--
 A representation of “the real world” that's used in `IO` monads to ensure that `IO` actions are not
 reordered.
 -/
-/- Like <https://hackage.haskell.org/package/ghc-Prim-0.5.2.0/docs/GHC-Prim.html#t:RealWorld>.
-   Makes sure we never reorder `IO` operations.
+@[expose] def IO.RealWorld : Type := IO.RealWorld.nonemptyType.type
```
Comment (Rob23oba) [inline src/Init/System/IO.lean:25]: This `@[expose]` should be unnecessary, right?

Comment (Kha) [reply src/Init/System/IO.lean:25]: Yes if combined with `by exact` in the instance to switch to the private scope

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b8e801ecadac3e89b303b8c302abe065ad571e13 --onto 6ae31ea2d6e9d6d30c0e2bedac166377a15d07ef`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-30 18:23:40)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase d70b619500b8d8665e8fe3cda07c104c379eff13 --onto 9923a8d9f8ca0c411d01d0790439ff02dc9dab8c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-07 21:08:01)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c34ea82bc206bb5138aad494e5b36ac5ddb35e48 --onto 9923a8d9f8ca0c411d01d0790439ff02dc9dab8c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-08 18:56:10)

File: src/Init/System/IO.lean (hunk 1 above)
Comment (zwarich) [reply src/Init/System/IO.lean:25]: @Kha just to be clear, you mean this?
```
def IO.RealWorld : Type := IO.RealWorld.nonemptyType.type

instance IO.RealWorld.instNonempty : Nonempty IO.RealWorld :=
  by exact IO.RealWorld.nonemptyType.property
```

Comment (Kha) [reply src/Init/System/IO.lean:25]: Yes!

File: src/Std/Do/WP/IO.lean [hunk 2]
```diff
@@ -28,23 +28,16 @@ open Std.Do
...
     }
 
 instance instLawfulMonad : LawfulMonad (EIO ε) := inferInstanceAs (LawfulMonad (EStateM ε IO.RealWorld))
-
-scoped instance instWPMonad : WPMonad (EIO ε) (.except ε .pure) where
-  wp_pure a := by simp only [wp, pure, EStateM.pure, PredTrans.pure]
-  wp_bind x f := by
-    ext Q : 2
-    simp only [wp, bind, EStateM.bind, PredTrans.bind]
-    cases (x ()) <;> rfl
```
Comment (Rob23oba) [inline src/Std/Do/WP/IO.lean]: Hmm ideally we could still preserve this (unless it's impossible now!) @sgraf812 any ideas?

Comment (zwarich) [reply src/Std/Do/WP/IO.lean]: Just to be clear, this (and the two broken proofs in tests) are the reason this is just a draft. I just removed this to make everything build, but hopefully we can keep it.

**Comment by cppio** [comment]
Even with `IO.RealWorld` opaque, the fact that it doesn't actually represent the state of the real world means you can prove equations involving `IO` that don't actually hold, like so:
```lean
def tt (k : IO Unit := return) : IO Bool := do
  let x ← IO.mkRef false
  let s ← .get
  x.set true
  k
  .set s
  x.get

def ff : IO Bool := do
  let x ← IO.mkRef false
  x.get

example : tt = ff := by
  dsimp [tt, ff, bind, liftM, monadLift, MonadLift.monadLift, ST.Ref.set]
  unfold EStateM.get EStateM.bind
  dsimp [BaseIO.toEIO]
  funext s
  split
  . split
    . rfl
    next h => split at h; simp at h
  . rfl

#eval tt -- true
#eval ff -- false
```
I don't think this can be turned into a proof of `False`, but the solution would be to make `EIO` opaque. If the `WP` instance is sound, perhaps it could be included in the opaque signature.

**Comment by zwarich** [comment]
> I don't think this can be turned into a proof of `False`, but the solution would be to make `EIO` opaque. If the `WP` instance is sound, perhaps it could be included in the opaque signature.

This does, however, suggest that the `WP` instance probably can't be fixed by adding some axiom about `EIO` without also making `EIO` opaque.

File: src/Std/Do/WP/IO.lean (hunk 2 above)
Comment (sgraf812) [reply src/Std/Do/WP/IO.lean]: Can't you just replace `()` with `_` and let it infer? Otherwise if we can't prove it, axiomatize it :shrug: `IO` is nothing but a big lump of axioms about the runtime system; doesn't hurt to axiomatize some basic properties about its `Monad` and `WP` instance.

File: src/Std/Do/WP/IO.lean [hunk 3]
```diff
@@ -28,23 +28,16 @@ open Std.Do
...
-    { apply := fun Q => match x () with
+    { apply := fun Q => match x Classical.ofNonempty with
         | .ok a _rw => Q.1 a
         | .error e _rw => Q.2.1 e
       conjunctive := by
         intro _ _
         apply SPred.bientails.of_eq
         dsimp
-        cases (x ()) <;> rfl
+        cases (x Classical.ofNonempty) <;> rfl
```
Comment (sgraf812) [inline src/Std/Do/WP/IO.lean:40]:
```suggestion
        cases (x _) <;> rfl
```
?

(I don't mind the `noncomputable` btw.)

**Comment by digama0** [comment]
I don't think that example is cause for concern. It is certainly possible for the same `IO Bool` to return two different values when called twice, e.g. `getRandom`. That's literally what IO is for. This would only be problematic if you had a pure `Bool` computation (e.g. by unpacking the `IO`) with this behavior.

**Comment by digama0** [comment]
> I don't currently see anything wrong with the `WP`/`WPMonad` instance. However, I find the example by @cppio concerning. Reasoning about `IO` as well as compiling it down to code hinges on the linear use of the state token; the usual `IO` encoding expresses the chain of side-effects as a chain of data dependencies. As long as users are permitted to freely meddle with this chain, it will be impossible to write useful models about ref cells, for example. Note that the example above has two identical expressions `ST.Ref.get ref s` (including the values of `ref` and `s`). These are equivalent by `rfl`, but one _always_ returns `.ok false s'` and the other _always_ returns `.ok true s'`. The only possible sound model is to say "`ST.Ref.get ref` might return _any_ value".

Even without this, I have argued [elsewhere](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.E2.9C.94.20axioms.20for.20IO.2ERef.20.28noob.29/near/424998339) that it is not possible to give `ST.Ref` a reasonable spec, because mkRef doesn't put any constraints on the state type, meaning that the storage is apparently larger than the monad type it lives in, resulting in some cantor-like contradictions. I think "`ST.Ref.get ref` might return _any_ value" is actually the correct spec.

**Comment by Rob23oba** [comment]
I have recently also thought about this problem and I had the idea of introducing a notion of "small types" as in:
```lean-4
def BigType : Nat → Type
  | 0 => Nat
  | k + 1 => BigType k → BigType k

def SomeReallyBigType : Type := Sigma BigType

class IsSmallType (α : Type u) where
  exists_inj : ∃ f : α → SomeReallyBigType, ∀ x y, f x = f y → x = y

structure Ref (α : Type) where
  ref : Nat
  nonempty : Nonempty α

def World : Type := (p : SomeReallyBigType → Prop) → (∃ x, p x) → (Nat × (Nat → Subtype p))
```
The idea is then that every small type is equivalent to some subtype of `SomeReallyBigType` and then a world can provide lists of values per such subtype instead of for every type in the sense of:
```lean-4
def World : Type 1 := (α : Type) → Nonempty α → IsSmallType α → (Nat × (Nat → α))
```
so that it can live in `Type`.
(obviously these wouldn't be definitions that we'd actually have but rather serve as justification for some "axioms" of the IO specification)

**Comment by Rob23oba** [comment]
Hmm let's discuss over at zulip instead: https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.60IO.60.20definition.2Faxiomatization

**Comment by zwarich** [comment]
!bench

**Comment by zwarich** [comment]
!bench

File: src/Init/System/IO.lean (hunk 1 above)
Comment (zwarich) [reply src/Init/System/IO.lean:25]: Sadly, this `@[expose]` ended up being necessary, so that WHNF on types would agree in both modular and non-modular translation units.
